US06414030B1
1.51 g (10.0 mmol) of 2-(4-methoxyphenyl)ethylamine were dissolved in 40 ml of pyridine and admixed with a spatula tip of 4-dimethylaminopyridine and then with a solution of 2.15 g (10.5 mmol) of 5-tert-butyl-2-methoxybenzoyl chloride. After the 2-(4-methoxyphenyl)ethylamine had been converted completely, the reaction mixture was poured into cold dilute hydrochloric acid, and the precipitated product was filtered off with suction and dried to give 5-tert-butyl-2-methoxy-N-[2-(4-methoxyphenyl)ethyl]benzamide as a colorless solid. The benzamide was introduced into cold chlorosulfonic acid. After the benzamide had been converted completely, the reaction mixture was poured onto ice and filtered off with suction, and the precipitate was dissolved in acetone. This solution was admixed with excess concentrated aqueous ammonia. After the exothermic reaction had subsided, the mixture was concentrated to a third of its original volume and the precipitate was filtered off with suction. The 5-[2-(5-tert-butyl-2-methoxybenzamido)ethyl]-2-methoxybenzenesulfonamide was obtained in the form of colorless crystals of melting point 165-168° C.

reactant | 2-(4-methoxyphenyl)ethylamine | 10.0 mmol, 1.51 g | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | 5-tert-butyl-2-methoxybenzoyl chloride | 10.5 mmol, 2.15 g | C(C)(C)(C)C=1C=CC(=C(C(=O)Cl)C1)OC | C12H15ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-tert-butyl-2-methoxy-N-[2-(4-methoxyphenyl)ethyl]benzamide | C(C)(C)(C)C=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)OC)C1)OC | C21H27NO3
